US09212168B2
(a) (2S,4S)-tert-butyl 2-(4 (3′ fluoro 4′-((6 ((R)-2-methyl-4-pivaloylpiperazin-1-yl)pyridin-3-yl)carbamoyl)-2′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate
To a solution of (2S,4S)-tert-butyl 4-methyl-2-(4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (68.6 mg, 0.15 mmol) and (R)-4-bromo-2-fluoro-N-(6-(2-methyl-4-pivaloylpiperazin-1-yl)pyridin-3-yl)-3-(trifluoromethoxy)benzamide (85 mg, 0.15 mmol, Preparation 52) and potassium carbonate (110 mg, 0.80 mmol) in a mixture of toluene (1.8 mL) and water (0.6 mL) was added PdCl2(dppf) (6.7 mg, 9.08 μmol). The mixture was sparged under nitrogen for 2 min and heated at 100° C. overnight and extracted with EtOAc and water. The organic layer was dried over sodium sulfate, filtered, concentrated, and purified by silica gel chromatography (12 g silica, 0-100% EtOAc:hexanes over 20 min), to provide the title intermediate (86.9 mg, 71% yield) as a yellow solid. (m/z): [M+H]+ calcd for C42H49F4N7O5 808.37. found 808.7.

reactant | (2S,4S)-tert-butyl 4-methyl-2-(4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 0.15 mmol, 68.6 mg | C[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H36BN3O4
reactant | (R)-4-bromo-2-fluoro-N-(6-(2-methyl-4-pivaloylpiperazin-1-yl)pyridin-3-yl)-3-(trifluoromethoxy)benzamide | 0.15 mmol, 85 mg | BrC1=C(C(=C(C(=O)NC=2C=NC(=CC2)N2[C@@H](CN(CC2)C(C(C)(C)C)=O)C)C=C1)F)OC(F)(F)F | C23H25BrF4N4O3
reactant | potassium carbonate | 0.80 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 1.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.6 mL | O | H2O
catalyst | PdCl2(dppf) | 9.08 μmol, 6.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2S,4S)-tert-butyl 2-(4 (3′ fluoro 4′-((6 ((R)-2-methyl-4-pivaloylpiperazin-1-yl)pyridin-3-yl)carbamoyl)-2′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate | 86.9 mg, 71% yield | FC=1C(=C(C=CC1C(NC=1C=NC(=CC1)N1[C@@H](CN(CC1)C(C(C)(C)C)=O)C)=O)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(C[C@H](C1)C)C(=O)OC(C)(C)C)OC(F)(F)F | C42H49F4N7O5
